US04960897
(b) Preparation of 1-[N-(4-chloro-3-methylbenzenesulfonyl)-N-methylamino] -2-(6-chloropyridin-2-yl)-2,3-dihydroxypropane
A mixture of 1.5 g of 1-acetoxy-3-[N-(4-chloro-3-methylbenzenesulfonyl)-N-methylamino]-2-(6-chloropyridin-2-yl)-2-hydroxypropane, 1 ml of triethylamine, 1 ml of water and 2 ml of methanol was stirred at room temperature for 4 hours. The reaction mixture was left to stand overnight, and the deposited crystals were filtered out and washed with water-containing methanol to obtain 1.17 g of the objective compound.

reactant | 1-acetoxy-3-[N-(4-chloro-3-methylbenzenesulfonyl)-N-methylamino]-2-(6-chloropyridin-2-yl)-2-hydroxypropane | 1.5 g | C(C)(=O)OCC(CN(C)S(=O)(=O)C1=CC(=C(C=C1)Cl)C)(O)C1=NC(=CC=C1)Cl | C18H20Cl2N2O5S
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | water | 1 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 1-[N-(4-chloro-3-methylbenzenesulfonyl)-N-methylamino] -2-(6-chloropyridin-2-yl)-2,3-dihydroxypropane | 1.17 g | ClC1=C(C=C(C=C1)S(=O)(=O)N(C)CC(CO)(O)C1=NC(=CC=C1)Cl)C | C16H18Cl2N2O4S
